US09102669B2
6-methyl-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)indoline (Compound #57)
The title compound was prepared following the procedure as described in Example 5, STEP 4, reacting 6-methylindoline and 1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-one.

reactant | 6-methylindoline | CC1=CC=C2CCNC2=C1 | C9H11N
reactant | 1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-one | CN1N=CC(=C1)C1=CC=C(N=N1)N1CCC(CC1)=O | C13H15N5O
product | 6-methyl-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)indoline | CC1=CC=C2CCN(C2=C1)C1CCN(CC1)C=1N=NC(=CC1)C=1C=NN(C1)C | C22H26N6
